US04296114
3,4-Dihydro-4-(4-methoxyphenyl)-3-oxoquinoxaline 2-carboxyureide
To a solution of N-(4-methoxyphenyl)benzene-1,2-diamine (9.0 g) in ethanol (150 ml) was added a solution of alloxan monohydrate (6.7 g) in water (150 ml) and the mixture was stirred for 30 minutes. The precipitate was filtered off and recrystallised from glacial acetic acid giving the title compound mp 236°-238° C.

reactant | N-(4-methoxyphenyl)benzene-1,2-diamine | 9.0 g | COC1=CC=C(C=C1)NC=1C(=CC=CC1)N | C13H14N2O
reactant | alloxan monohydrate | 6.7 g | O.N1C(=O)NC(=O)C(=O)C1=O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 3,4-Dihydro-4-(4-methoxyphenyl)-3-oxoquinoxaline | COC1=CC=C(C=C1)N1C(C=NC2=CC=CC=C12)=O | C15H12N2O2
